US07544812B2
A mixture of 4-[3-(4-hydroxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one (0.51 g, 1.30 mmol) and 2-bromo-2-methyl-pentanoic acid (2.54 g, 13.0 mmol) in 2-methyl-2-propanol (10 mL) was heated to 45° C. under N2 and then a solution of 1 M potassium tert-butoxide in 2-methyl-2-propanol (27.3 mL, 27.3 mmol) was added dropwise and the reaction was stirred at 45° C. for 40 minutes. The reaction mixture was cooled and quenched with 1 N HCl (50 mL). The mixture was then diluted with water and extracted with Et2O. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford crude product that was combined with EtOH (50 mL) and conc. H2SO4 (6 mL). The mixture was heated to reflux for 3 h. The reaction mixture was cooled and the solvent removed in vacuo. The residue was diluted with water and extracted with EtOAc and the organic layer was dried (Na2SO4). The solvent was removed in vacuo to give crude product that was purified by flash chromatography using 5:1 hexanes:acetone to afford 0.491 g (71%) 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid ethyl ester. This material could be purified by chiral preparative HPLC (conditions,) 1H NMR. MS (ES+) m/z calcd for C29H38N2O4F3 [M+1] 535. Found 535 (100%).

reactant | 4-[3-(4-hydroxy-phenyl)-propyl]-3-methyl-1-(4-trifluoromethyl-benzyl)-imidazolidin-2-one | 1.30 mmol, 0.51 g | OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C21H23F3N2O2
reactant | 2-bromo-2-methyl-pentanoic acid | 13.0 mmol, 2.54 g | BrC(C(=O)O)(CCC)C | C6H11BrO2
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
solvent | 2-methyl-2-propanol | 10 mL | CC(C)(C)O | C4H10O
solvent | 2-methyl-2-propanol | 27.3 mmol, 27.3 mL | CC(C)(C)O | C4H10O
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid ethyl ester | 0.491 g, 71% | C(C)OC(C(CCC)(OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C)=O | C29H37F3N2O4
